US05498630
2-Iodobenzoic acid (65.92 g, 0.266 mol), oxalyl chloride (40.5 g, 0.319 mol), CH2Cl2 (200 mL) and DMF (10 drops) were stirred at RT overnight. The reaction solution was concentrated, toluene was added and the solution concentrated to afford the crude 2-iodobenzoyl chloride.

reactant | 2-Iodobenzoic acid | 0.266 mol, 65.92 g | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
reactant | oxalyl chloride | 0.319 mol, 40.5 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | DMF | 10 drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-iodobenzoyl chloride | IC1=C(C(=O)Cl)C=CC=C1 | C7H4ClIO
